US04028344
Preparation of 1-t-Butylazo-1-(methoxythiocarbonylamino)cyclohexane
To 50 ml of methanol in a 125 ml erlenmeyer flask stirred with a magnetic stirrer, was slowly added 2.1 grams (0.05 moles) of 57% sodium hydride. The reaction mixture was cooled back to 25° C. and 11.2 grams (0.05 moles) of 1-t-butylazo-1-isothiocyanatocyclohexane was added dropwise over 5 minutes. The reaction mixture was stirred 24 hours at room temperature, poured into 300 ml water and the product extracted with 100 ml pentane. The pentane extract was washed with water, 10% NaHCO3 solution, dried over anhydrous Na2SO4, filtered, and the pentane evaporated under reduced pressure to leave 9.2 grams of a mushy semi-solid. The semi-solid was slurried in cold pentane and filtered. The solids were dried and weighed 5.6 grams (43.5% crude yield) and melted at 79°-82° C. The infrared spectrum of the product had a strong broad band at 1530 cm-1 and a sharp NH band at 3250 cm-1.

reactant | methanol | 50 ml | CO | CH4O
reactant | sodium hydride | 0.05 moles, 2.1 grams | [H-].[Na+]
reactant | 1-t-butylazo-1-isothiocyanatocyclohexane | 0.05 moles, 11.2 grams | C(C)(C)(C)N=NC1(CCCCC1)N=C=S | C11H19N3S
solvent | water | 300 ml | O | H2O
product | 1-t-Butylazo-1-(methoxythiocarbonylamino)cyclohexane | 9.2 grams | C(C)(C)(C)N=NC1(CCCCC1)NC(=S)OC | C12H23N3OS
